### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Reproducing): add RKHS.equiv

### PR DESCRIPTION
**Pull request by TJHeeringa**
Moore-Aronzaijn establishes the relation between kernel and RKHS. `kernel_ofKernel` shows that the kernel of the space generated by the kernel is the original kernel. This PR adds the second part of the Moore-Aronzaijn theorem. It introduces the map `equiv`, which shows that any two RKHS with the same kernel are isometrically isomorphic. 

---

AI:
Mistral and Claude were used as Loogle complement, and suggested the uses of `LinearIsometryEquiv.ofSurjective` in the proof of `equiv` (then `EquivOfKernel`). 

- [x] depends on: #40151
- [x] depends on: #42378

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 1]
```diff
@@ -304,4 +304,144 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+      Finsupp.sum, sum_inner, inner_sum, inner_smul_left, inner_smul_right, kernel_inner, mul_assoc]
+    simp
+}
+
+variable (H) in
+private lemma ofH₀_uniformContinuous : UniformContinuous (ofH₀ H) :=
+  (ofH₀ H).isometry.uniformContinuous
+
+/-- A reproducing kernel Hilbert space is isometric to the Hilbert space generated by its kernel. -/
+def RKHSEquivOfKernel : H ≃ₗᵢ[𝕜] OfKernel (kernel H) := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Maybe the name could just be `EquivOfKernel`?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 2]
```diff
@@ -304,4 +304,144 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+lemma RKHSEquivOfKernel_kerFun_eq (x : X) (v : V) : RKHSEquivOfKernel (kerFun H x v) =
+    kerFun (OfKernel (kernel H)) x v := by
+  rw [RKHSEquivOfKernel_kerFun_eq_coe'_single, kerFun_eq_coe'_single]
+
+lemma RKHSEquivOfKernel_symm_kerFun_eq (x : X) (v : V) :
+    RKHSEquivOfKernel.symm (kerFun (OfKernel (kernel H)) x v) = (kerFun H x v) := by
+  rw [← RKHSEquivOfKernel_kerFun_eq, LinearIsometryEquiv.symm_apply_apply]
+
+lemma norm_RKHSEquivOfKernel_apply (f : H) :
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: I don't think you need this lemma or the ones below. They should already exist since `RKHSEquivOfKernel` is an isometry.  For example, this is `RKHSEquivOfKernel.norm_map f`

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 1 above)
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Have you thought about making `H` explicit here? Not so sure about this though.

**Review by Maldooor — CHANGES_REQUESTED** [review]
Thanks!

I think maybe you should define an isometry between any two RKHS that have equal kernel instead. `RKHSEquivOfKernel` would then be this theorem applied to `kernel_ofKernel`. It is a consequence of `RKHSEquivOfKernel` so you can either prove it as a consequence or just prove it directly.

It would probably also be good to prove that the isometry preserves the functions, that is, you get the same result applying toFun before or after the isometry.

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 1 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: I had not, but it should be. Also alleviates the need to write the `(H:=H)` below.

Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: There is not really any other Equiv that comes to mind, so likely we could just make it `Equiv`. Makes also a little bit more sense, if we switch to a linear isometry between two RKHS with the same kernel.

Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: I renamed it to the suggested `EquivOfKernel`, and the version between two RKHS is called `Equiv`.

**Comment by TJHeeringa** [comment]
I added the map `Equiv`, which is the isometry between two RKHS. Based on the current proof strategy, I didn't see how I could go directly. Hence, I made a little detour. I do have an idea for how we can go directly (use that when the kernels are equal both ways an embedding with norm 1 exist), but that required other multiple PRs to be merged first (the dependents of #38584, #38584 itself and then a follow-up on that).

**Comment by TJHeeringa** [comment]
I simplified the construction a bit.

@Maldooor How would you model this `LinearIsometryEquiv` that also preserves `toFun`? Would you create a new `Equiv` (let's say `LinearIsometryFunEquiv`), or simply a theorem?

**Comment by Maldooor** [comment]
It's an interesting idea to add a new kind of Equiv but I don't think we need it. I think simply a theorem that `(Equiv h f : X → V) = f ` will do.

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 3]
```diff
@@ -316,4 +318,108 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+variable (H) in
+/-- If the two RKHS have the same kernel, they are isometrically isomorphic. -/
+def EquivOfKernel : H ≃ₗᵢ[𝕜] OfKernel (kernel H) := (equiv_aux rfl).symm
+
+lemma EquivOfKernel_symm (g : OfKernel (kernel H)) : (EquivOfKernel H).symm g =
+    UniformSpace.Completion.extension (α := H₀ (kernel H))
+      ((Finsupp.linearCombination 𝕜 (fun (xv : X × V) => (RKHS.kerFun H xv.1) xv.2))) g := by
+  simp [EquivOfKernel]; rfl
+
+theorem EquivOfKernel_apply_symm_apply (g : OfKernel (kernel H)) :
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: This theorem and the one below are also unnecessary as they already exist

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 4]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+variable {H₁ : Type*} [NormedAddCommGroup H₁] [InnerProductSpace 𝕜 H₁] [CompleteSpace H₁]
+variable [RKHS 𝕜 H₁ X V]
+
+variable (H) in
+/-- Helper function that maps the kernel functions of `H` into the RKHS `H₁` isometrically. -/
+private def toH₁ (h : kernel H = kernel H₁) : H₀ (kernel H) →ₗᵢ[𝕜] H₁ := {
+  Finsupp.linearCombination 𝕜 (fun (xv : X × V) => RKHS.kerFun H₁ xv.1 xv.2) with
+  norm_map' := by
+    intro f
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  norm_map' f := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 5]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+      rw [← LinearMap.coe_range, Finsupp.range_linearCombination, SetLike.coe_set_eq]
+      congr 1
+      ext
+      refine ⟨
+        fun ⟨⟨x, v⟩, h⟩ ↦ ⟨x, v, h⟩,
+        fun ⟨x, v, h⟩ ↦ ⟨⟨x, v⟩, h⟩
+      ⟩
+    rw [ofOfKernel.isometry.isClosedEmbedding.isClosed_range.closure_eq.symm,
+      (h_dense.mono h_sub).closure_eq]
+  exact (LinearIsometryEquiv.ofSurjective ofOfKernel h_surj)
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  exact LinearIsometryEquiv.ofSurjective ofOfKernel h_surj
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 6]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+variable (H) in
+/-- If the two RKHS have the same kernel, they are isometrically isomorphic. -/
+def EquivOfKernel : H ≃ₗᵢ[𝕜] OfKernel (kernel H) := (equiv_aux rfl).symm
+
+lemma EquivOfKernel_symm (g : OfKernel (kernel H)) : (EquivOfKernel H).symm g =
+    UniformSpace.Completion.extension (α := H₀ (kernel H))
+      ((Finsupp.linearCombination 𝕜 (fun (xv : X × V) => (RKHS.kerFun H xv.1) xv.2))) g := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
     (Finsupp.linearCombination 𝕜 fun xv => RKHS.kerFun H xv.1 xv.2) g := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 7]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  simp [EquivOfKernel]; rfl
+
+lemma kerFun_eq_coe'_single (x : X) (v : V) : kerFun (OfKernel K) x v =
+    UniformSpace.Completion.coe' (Finsupp.single (x, v) 1 : H₀ K) := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
    .coe' (.single (x, v) 1 : H₀ K) := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 8]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  simp [RKHS.kerFun, coeCLM, kerFunAux]
+
+lemma EquivOfKernel_kerFun_eq_coe'_single (x : X) (v : V) : EquivOfKernel H (kerFun H x v) =
+    UniformSpace.Completion.coe' (α := H₀ (kernel H)) (Finsupp.single (x, v) 1) := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
    .coe' (α := H₀ (kernel H)) (.single (x, v) 1) := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 9]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  apply ((EquivOfKernel H).eq_symm_apply).mp
+  have h_uni : UniformContinuous
+      (Finsupp.linearCombination 𝕜 (fun (xv : X × V) => RKHS.kerFun H xv.1 xv.2)) :=
+    (toH₁ H rfl).isometry.uniformContinuous
+  simp [EquivOfKernel_symm, UniformSpace.Completion.extension_coe h_uni _,
+    Finsupp.linearCombination_single, one_smul]
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  simp [EquivOfKernel_symm, UniformSpace.Completion.extension_coe h_uni _]
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 10]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+lemma kerFun_eq_coe'_single (x : X) (v : V) : kerFun (OfKernel K) x v =
+    UniformSpace.Completion.coe' (Finsupp.single (x, v) 1 : H₀ K) := by
+  simp [RKHS.kerFun, coeCLM, kerFunAux]
+
+lemma EquivOfKernel_kerFun_eq_coe'_single (x : X) (v : V) : EquivOfKernel H (kerFun H x v) =
+    UniformSpace.Completion.coe' (α := H₀ (kernel H)) (Finsupp.single (x, v) 1) := by
+  apply ((EquivOfKernel H).eq_symm_apply).mp
+  have h_uni : UniformContinuous
+      (Finsupp.linearCombination 𝕜 (fun (xv : X × V) => RKHS.kerFun H xv.1 xv.2)) :=
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
      (Finsupp.linearCombination 𝕜 fun (xv : X × V) => RKHS.kerFun H xv.1 xv.2) :=
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 11]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+    (toH₁ H rfl).isometry.uniformContinuous
+  simp [EquivOfKernel_symm, UniformSpace.Completion.extension_coe h_uni _,
+    Finsupp.linearCombination_single, one_smul]
+
+lemma EquivOfKernel_kerFun_eq (x : X) (v : V) : EquivOfKernel H (kerFun H x v) =
+    kerFun (OfKernel (kernel H)) x v := by
+  rw [EquivOfKernel_kerFun_eq_coe'_single, kerFun_eq_coe'_single]
+
+lemma EquivOfKernel_symm_kerFun_eq (x : X) (v : V) :
+    (EquivOfKernel H).symm (kerFun (OfKernel (kernel H)) x v) = (kerFun H x v) := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
    (EquivOfKernel H).symm (kerFun (OfKernel (kernel H)) x v) = kerFun H x v := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 12]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  simp [Equiv, OfKernel.EquivOfKernel_kerFun_eq_coe'_single, OfKernel.equiv_aux,
+    UniformSpace.Completion.extension_coe (OfKernel.toH₁ H h).isometry.uniformContinuous]
+  simp [OfKernel.toH₁]
+
+/-- If the two RKHS have the same kernel, then the functions in the RKHSs agree as functions on
+`X → V`. -/
+theorem coe_Equiv (h : kernel H = kernel H₁) (f : H) : ⇑(Equiv h f) = ⇑f := by
+  ext
+  apply ext_inner_left 𝕜
+  intro v
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  refine ext_inner_left 𝕜 fun v ↦ ?_
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 13]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+theorem Equiv_kerFun_eq_kerFun (h : kernel H = kernel H₁) (x : X) (v : V) :
+    Equiv h (kerFun H x v) = kerFun H₁ x v := by
+  simp [Equiv, OfKernel.EquivOfKernel_kerFun_eq_coe'_single, OfKernel.equiv_aux,
+    UniformSpace.Completion.extension_coe (OfKernel.toH₁ H h).isometry.uniformContinuous]
+  simp [OfKernel.toH₁]
+
+/-- If the two RKHS have the same kernel, then the functions in the RKHSs agree as functions on
+`X → V`. -/
+theorem coe_Equiv (h : kernel H = kernel H₁) (f : H) : ⇑(Equiv h f) = ⇑f := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
theorem coe_Equiv (h : kernel H = kernel H₁) (f : H) : ⇑(Equiv h f) = f := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 14]
```diff
@@ -316,4 +318,111 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+section Equiv
+
+variable {H₁ : Type*} [NormedAddCommGroup H₁] [InnerProductSpace 𝕜 H₁] [CompleteSpace H₁]
+variable [RKHS 𝕜 H₁ X V]
+
+/-- If the two RKHS have the same kernel, then they are isometrically isomorphic. -/
+def Equiv (h : kernel H = kernel H₁) : H ≃ₗᵢ[𝕜] H₁ :=
+  (OfKernel.EquivOfKernel H).trans (OfKernel.equiv_aux h)
+
+theorem Equiv_kerFun_eq_kerFun (h : kernel H = kernel H₁) (x : X) (v : V) :
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: I think you can make this a simp lemma

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 13 above)
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: This should probably also be a simp lemma

**Review by Maldooor — CHANGES_REQUESTED** [review]
Here's some minor suggestions. I think it might also be a good idea to add a theorem that `Equiv h = EquivOfKernel` where `h` is a proof of `kernel H = kernel (OfKernel (kernel H))`, and then maybe also a version of `coe_Equiv` for `EquivOfKernel`.

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 15]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+lemma EquivOfKernel_kerFun_eq (x : X) (v : V) : EquivOfKernel H (kerFun H x v) =
+    kerFun (OfKernel (kernel H)) x v := by
+  rw [EquivOfKernel_kerFun_eq_coe'_single, kerFun_eq_coe'_single]
+
+lemma EquivOfKernel_symm_kerFun_eq (x : X) (v : V) :
+    (EquivOfKernel H).symm (kerFun (OfKernel (kernel H)) x v) = kerFun H x v := by
+  rw [← EquivOfKernel_kerFun_eq, LinearIsometryEquiv.symm_apply_apply]
+
+private theorem equiv_eq (h : kernel H = kernel (OfKernel (kernel H))) :
+    equiv_aux h = .refl 𝕜 (OfKernel (kernel H)) := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: `h` is always true so we don't need it as an assumption
```suggestion
private theorem equiv_eq :
    equiv_aux OfKernel.kernel_ofKernel.symm = .refl 𝕜 (OfKernel (kernel H)) := by
```
and then fix proof

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 16]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+@[simp]
+theorem Equiv_kerFun_eq_kerFun (h : kernel H = kernel H₁) (x : X) (v : V) :
+    Equiv h (kerFun H x v) = kerFun H₁ x v := by
+  simp [Equiv, -OfKernel.EquivOfKernel_kerFun_eq, OfKernel.EquivOfKernel_kerFun_eq_coe'_single,
+    OfKernel.equiv_aux,
+    UniformSpace.Completion.extension_coe (OfKernel.toH₁ H h).isometry.uniformContinuous]
+  simp [OfKernel.toH₁]
+
+theorem Equiv_eq_EquivOfKernel (h : kernel H = kernel (OfKernel (kernel H))) :
+    Equiv h = (OfKernel.EquivOfKernel H) := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Assumption can also be removed here
```suggestion
theorem Equiv_eq_EquivOfKernel :
    Equiv OfKernel.kernel_ofKernel.symm = OfKernel.EquivOfKernel H := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 17]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+private def toH₁ (h : kernel H = kernel H₁) : H₀ (kernel H) →ₗᵢ[𝕜] H₁ := {
+  Finsupp.linearCombination 𝕜 (fun (xv : X × V) => RKHS.kerFun H₁ xv.1 xv.2) with
+  norm_map' f := by
+    simp_rw [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_H₀_def, Finsupp.linearCombination_apply,
+      Finsupp.sum, sum_inner, inner_sum, h, inner_smul_left, inner_smul_right, kernel_inner,
+      mul_assoc]
+    simp
+}
+
+private def equiv_aux (h : kernel H = kernel H₁) : OfKernel (kernel H) ≃ₗᵢ[𝕜] H₁ := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
private def equivAux (h : kernel H = kernel H₁) : OfKernel (kernel H) ≃ₗᵢ[𝕜] H₁ := by
```
This is a term of a type (that is not a prop) so it should be lowerCamelCase

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 18]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+        fun ⟨⟨x, v⟩, h⟩ ↦ ⟨x, v, h⟩,
+        fun ⟨x, v, h⟩ ↦ ⟨⟨x, v⟩, h⟩
+      ⟩
+    rw [ofOfKernel.isometry.isClosedEmbedding.isClosed_range.closure_eq.symm,
+      (h_dense.mono h_sub).closure_eq]
+  exact LinearIsometryEquiv.ofSurjective ofOfKernel h_surj
+
+variable (H) in
+/-- If the two RKHS have the same kernel, they are isometrically isomorphic. -/
+def EquivOfKernel : H ≃ₗᵢ[𝕜] OfKernel (kernel H) := (equiv_aux rfl).symm
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
def equivOfKernel : H ≃ₗᵢ[𝕜] OfKernel (kernel H) := (equiv_aux rfl).symm
```
This is also a term of a type (that is not a prop) so it should also be in lowerCamelCase

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 19]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+lemma EquivOfKernel_symm (g : OfKernel (kernel H)) : (EquivOfKernel H).symm g =
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
lemma equivOfKernel_symm (g : OfKernel (kernel H)) : (EquivOfKernel H).symm g =
```
and same thing for lemmas below

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 20]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+end OfKernel
+
+section Equiv
+
+variable {H₁ : Type*} [NormedAddCommGroup H₁] [InnerProductSpace 𝕜 H₁] [CompleteSpace H₁]
+variable [RKHS 𝕜 H₁ X V]
+
+/-- If the two RKHS have the same kernel, then they are isometrically isomorphic. -/
+def Equiv (h : kernel H = kernel H₁) : H ≃ₗᵢ[𝕜] H₁ :=
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
def equiv (h : kernel H = kernel H₁) : H ≃ₗᵢ[𝕜] H₁ :=
```
This should also be lowerCamelCase I believe, and then change theorem names accordingly

**Review by Maldooor — CHANGES_REQUESTED** [review]

**Comment by Maldooor** [comment]
Thanks! I'm happy with this. What do you think @YaelDillies?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 21]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  refine ext_inner_left 𝕜 fun v ↦ ?_
+  simp [← kerFun_inner, ← LinearIsometryEquiv.inner_map_map (equivOfKernel H)]
+
+end Equiv
+
+end OfKernel
+
+section Equiv
+
+variable {H₁ : Type*} [NormedAddCommGroup H₁] [InnerProductSpace 𝕜 H₁] [CompleteSpace H₁]
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
variable {H' : Type*} [NormedAddCommGroup H₁] [InnerProductSpace 𝕜 H₁] [CompleteSpace H₁]
```
seems more appropriate with `H`

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 22]
```diff
@@ -316,4 +318,134 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+        fun ⟨⟨x, v⟩, h⟩ ↦ ⟨x, v, h⟩,
+        fun ⟨x, v, h⟩ ↦ ⟨⟨x, v⟩, h⟩
+      ⟩
+    rw [ofOfKernel.isometry.isClosedEmbedding.isClosed_range.closure_eq.symm,
+      (h_dense.mono h_sub).closure_eq]
+  exact LinearIsometryEquiv.ofSurjective ofOfKernel h_surj
+
+variable (H) in
+/-- If the two RKHS have the same kernel, they are isometrically isomorphic. -/
+def equivOfKernel : H ≃ₗᵢ[𝕜] OfKernel (kernel H) := (equivAux rfl).symm
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: This is a special case of `equiv`. Can you remove it?

**Comment by YaelDillies** [comment]
Don't forget to update the PR title and description!

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 22 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: To remove `equivOfKernel`, I altered the definition of `equiv`. When removing `equivOfKernel`, I also removed a couple of lemmas. Now, we only have `equiv_kerFun_eq_kerFun` and `coe_equiv`. Any missing lemmas?

**Comment by TJHeeringa** [comment]
~~I removed the dependency on #40151. The code from that PR was unused.~~ I updated the dependency to its latest version and adapted the accordingly.

**Comment by TJHeeringa** [comment]
The dependencies have been merged and I have updated the proofs according to them. @Maldooor @YaelDillies could you check whether this is ready?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 23]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+private def toH' (h : kernel H = kernel H') : H₀ (kernel H) →ₗᵢ[𝕜] H' := {
+  Finsupp.linearCombination 𝕜 (fun (xv : X × V) => RKHS.kerFun H' xv.1 xv.2) with
+  norm_map' f := by
+    simp_rw [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_H₀_def, Finsupp.linearCombination_apply,
+      Finsupp.sum, sum_inner, inner_sum, h, inner_smul_left, inner_smul_right, kernel_inner,
+      mul_assoc]
+    simp
+}
+
+private def equivAux (h : kernel H = kernel H') : OfKernel (kernel H) ≃ₗᵢ[𝕜] H' := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
private def equivAux (h : kernel H = kernel H') : OfKernel (kernel H) ≃ₗᵢ[𝕜] H' :=
```
and then remove exact at the end

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 24]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  let h_lin := ContinuousLinearMap.fromCompletion (toH' H h).toContinuousLinearMap
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  let h_lin := (toH' H h).toContinuousLinearMap.fromCompletion 
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 25]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  let ofOfKernel : OfKernel (kernel H) →ₗᵢ[𝕜] H' := {
+    h_lin with
+    norm_map' x := by
+      apply (toH' H h).isometry.completion_extension.norm_map_of_map_zero
+      exact h_lin.map_zero
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
      apply (toH' H h).isometry.completion_extension.norm_map_of_map_zero h_lin.map_zero
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 26]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+  }
+  have h_surj : Function.Surjective ofOfKernel := by
+    apply Set.range_eq_univ.mp
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
```
together with the comment below

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 27]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+    have h_dense : Dense (Set.range (toH' H h)) := by
+      convert dense_iff_topologicalClosure_eq_top.mpr (kerFun_dense H')
+      simp only [LinearIsometry.coe_mk, toH']
+      rw [← LinearMap.coe_range, Finsupp.range_linearCombination, SetLike.coe_set_eq]
+      congr 1 with _
+      refine ⟨
+        fun ⟨⟨x, v⟩, h⟩ ↦ ⟨x, v, h⟩,
+        fun ⟨x, v, h⟩ ↦ ⟨⟨x, v⟩, h⟩
+      ⟩
+    rw [ofOfKernel.isometry.isClosedEmbedding.isClosed_range.closure_eq.symm,
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
    rw [← Set.range_eq_univ, ← ofOfKernel.isometry.isClosedEmbedding.isClosed_range.closure_eq,
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 28]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+variable [RKHS 𝕜 H' X V]
+
+/-- If the two RKHS have the same kernel, then they are isometrically isomorphic. -/
+def equiv (h : kernel H = kernel H') : H ≃ₗᵢ[𝕜] H' :=
+  (OfKernel.equivAux rfl).symm.trans (OfKernel.equivAux h)
+
+theorem equiv_kerFun_eq_kerFun (h : kernel H = kernel H') (x : X) (v : V) :
+    equiv h (kerFun H x v) = kerFun H' x v := by
+  have h1 : (OfKernel.equivAux (rfl : kernel H = kernel H)).symm (kerFun H x v) =
+      .coe' (α := H₀ (kernel H)) (.single (x, v) 1) := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  have h1 : (OfKernel.equivAux rfl).symm (kerFun H x v) = .coe' (.single (x, v) 1) := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 29]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+    apply (((OfKernel.equivAux (rfl : kernel H = kernel H))).symm).eq_symm_apply.mp
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
    apply (OfKernel.equivAux rfl).symm.eq_symm_apply.mp
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 30]
```diff
@@ -342,4 +345,80 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+    simp [OfKernel.equivAux, OfKernel.toH']
+  have h2 : OfKernel.equivAux h (.coe' (α := H₀ (kernel H)) (.single (x, v) 1)) =
+      kerFun H' x v := by
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  have h2 : OfKernel.equivAux h (.coe' (.single (x, v) 1)) = kerFun H' x v := by
```

**Review by Maldooor — CHANGES_REQUESTED** [review]
Here's some minor improvements

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 31]
```diff
@@ -342,4 +345,76 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+variable (H) in
+/-- Helper function that maps the kernel functions of `H` into the RKHS `H'` isometrically. -/
+private def toH' (h : kernel H = kernel H') : H₀ (kernel H) →ₗᵢ[𝕜] H' := {
+  Finsupp.linearCombination 𝕜 (fun (xv : X × V) => RKHS.kerFun H' xv.1 xv.2) with
+  norm_map' f := by
+    simp_rw [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_H₀_def, Finsupp.linearCombination_apply,
+      Finsupp.sum, sum_inner, inner_sum, h, inner_smul_left, inner_smul_right, kernel_inner,
+      mul_assoc]
+    simp
+}
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
private def toH' (h : kernel H = kernel H') : H₀ (kernel H) →ₗᵢ[𝕜] H' where
  toLinearMap := Finsupp.linearCombination 𝕜 fun (xv : X × V) => RKHS.kerFun H' xv.1 xv.2
  norm_map' f := by
    simp_rw [norm_eq_sqrt_re_inner (𝕜 := 𝕜), inner_H₀_def, Finsupp.linearCombination_apply,
      Finsupp.sum, sum_inner, inner_sum, h, inner_smul_left, inner_smul_right, kernel_inner,
      mul_assoc]
    simp
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 32]
```diff
@@ -342,4 +345,76 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+private def equivAux (h : kernel H = kernel H') : OfKernel (kernel H) ≃ₗᵢ[𝕜] H' :=
+  let h_lin := (toH' H h).toContinuousLinearMap.fromCompletion
+  let ofOfKernel : OfKernel (kernel H) →ₗᵢ[𝕜] H' := {
+    h_lin with
+    norm_map' x := by
+      apply (toH' H h).isometry.completion_extension.norm_map_of_map_zero h_lin.map_zero
+  }
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean:369]: Can you please instead add this as a new def in the appropriate file with the name `LinearIsometry.fromCompletion`? After that, you'll be able to write the body of this declaration as:
```lean
  .ofSurjective (toH' H h).fromCompletion <| by
    ...
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 33]
```diff
@@ -342,4 +345,76 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+      exact ⟨f, UniformSpace.Completion.extension_coe (toH' H h).isometry.uniformContinuous f⟩
+    have h_dense : Dense (Set.range (toH' H h)) := by
+      convert dense_iff_topologicalClosure_eq_top.mpr (kerFun_dense H')
+      simp only [LinearIsometry.coe_mk, toH']
+      rw [← LinearMap.coe_range, Finsupp.range_linearCombination, SetLike.coe_set_eq]
+      congr 1 with _
+      refine ⟨
+        fun ⟨⟨x, v⟩, h⟩ ↦ ⟨x, v, h⟩,
+        fun ⟨x, v, h⟩ ↦ ⟨⟨x, v⟩, h⟩
+      ⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
      simp only [LinearIsometry.coe_mk, toH', ← LinearMap.coe_range,
        Finsupp.range_linearCombination, SetLike.coe_set_eq]
      congr! 1
      aesop
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean (hunk 32 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean:369]: I made a separate PR for this: #42378.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 34]
```diff
@@ -341,4 +345,68 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+
+variable {H' : Type*} [NormedAddCommGroup H'] [InnerProductSpace 𝕜 H'] [CompleteSpace H']
+variable [RKHS 𝕜 H' X V]
+
+/-- If the two RKHS have the same kernel, then they are isometrically isomorphic. -/
+def equiv (h : kernel H = kernel H') : H ≃ₗᵢ[𝕜] H' :=
+  (OfKernel.equivAux rfl).symm.trans (OfKernel.equivAux h)
+
+theorem equiv_kerFun_eq_kerFun (h : kernel H = kernel H') (x : X) (v : V) :
+    equiv h (kerFun H x v) = kerFun H' x v := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Maybe just
```suggestion
theorem equiv_kerFun (h : kernel H = kernel H') (x : X) (v : V) :
    equiv h (kerFun H x v) = kerFun H' x v := by
```
?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 35]
```diff
@@ -341,4 +345,68 @@ theorem kernel_ofKernel : kernel (OfKernel K) = K := by
...
+theorem equiv_kerFun (h : kernel H = kernel H') (x : X) (v : V) :
+    equiv h (kerFun H x v) = kerFun H' x v := by
+  have h1 := UniformSpace.Completion.extension_coe
+    (OfKernel.toH' H h).isometry.uniformContinuous (Finsupp.single (x, v) 1)
+  have h1' := UniformSpace.Completion.extension_coe
+    (OfKernel.toH' H rfl).isometry.uniformContinuous (Finsupp.single (x, v) 1)
+  simp [OfKernel.toH'] at h1 h1'
+  simp [equiv, OfKernel.equivAux, OfKernel.toH', ← h1', ← h1]
+  congr
+  simp [LinearIsometryEquiv.symm_apply_eq]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: This sequence seems like it would be relatively brittle.

Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: I didn't like how brittle this seemed, so I wrote some private helper lemmas placed immediately prior to `equiv`.

```lean
private lemma toH'_apply_single (h : kernel H = kernel H') (x : X) (v : V) :
    (OfKernel.toH' H h) (Finsupp.single (x, v) 1) = kerFun H' x v := by
  simp [OfKernel.toH']

private lemma equivAux_apply_coe (h : kernel H = kernel H') (x₀ : H₀ (kernel H)) :
    OfKernel.equivAux h x₀ = OfKernel.toH' H h x₀ := by
  simpa [OfKernel.equivAux]
    using UniformSpace.Completion.extension_coe (OfKernel.toH' H h).isometry.uniformContinuous _
```
Then the proof can be simplified to:
```suggestion
  apply (OfKernel.equivAux h).symm.injective
  simp only [equiv, LinearIsometryEquiv.trans_apply, LinearIsometryEquiv.symm_apply_apply]
  rw [← toH'_apply_single h, ← toH'_apply_single rfl, ← equivAux_apply_coe, ← equivAux_apply_coe]
  simp
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
